US09238640B2
Preparation of 2-(2-(4-(6,8-Dimethoxy-1-oxo-1,2-dihydroisoquinolin-3-yl)-2,6-dimethylphenoxy)ethyl)isoindoline-1,3-dione
To a suspension of 3-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-6,8-dimethoxy-2H-isoquinolin-1-one (0.80 g, 2.16 mmol), isoindole-1,3-dione (0.35 g, 2.38 mmol), and triphenylphosphine (0.85 g, 3.25 mmol) in THF (30 mL), was added diethyl azodicarboxylate (0.56 g, 3.25 mmol) and the reaction mixture was stirred at room temperature for 16 hours. The solvent was evaporated in vacuo and the residue was washed with ether to give the title compound as an off-white solid. Yield: 1.11 g (crude). 1H NMR (400 MHz, CDCl3): δ 8.34 (s, 1H), 7.89 (m, 2H), 7.77 (m, 2H), 7.21 (s, 2H), 6.49 (br s, 2H), 6.44 (s, 1H), 4.16 (m, 2H), 4.08 (m, 2H), 3.97 (s, 3H), 3.89 (s, 3H), 2.25 (s, 6H). MS (ES) m/z: 499.06 (M+1) (100%).

reactant | 3-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-6,8-dimethoxy-2H-isoquinolin-1-one | 2.16 mmol, 0.80 g | OCCOC1=C(C=C(C=C1C)C=1NC(C2=C(C=C(C=C2C1)OC)OC)=O)C | C21H23NO5
reactant | isoindole-1,3-dione | 2.38 mmol, 0.35 g | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | triphenylphosphine | 3.25 mmol, 0.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.25 mmol, 0.56 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(2-(4-(6,8-Dimethoxy-1-oxo-1,2-dihydroisoquinolin-3-yl)-2,6-dimethylphenoxy)ethyl)isoindoline-1,3-dione | COC=1C=C2C=C(NC(C2=C(C1)OC)=O)C1=CC(=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C(=C1)C)C | C29H26N2O6
